US06194461B1
Production of α-(2-fluorophenyl)-N-t-butylnitrone
To a suspension of 2-fluorobenzaldehyde (332.3 mg, 2.68 mmol), 1,1-dimethylnitroethane (547.5 mg, 5.31 mmol) and zinc (514.6 mg, 7.87 mmol) in ethanol (3.0 ml) was added acetic acid (940.2 mg, 15.7 mmol) dropwise at 5° C. while stirring. The mixture was stirred at room temperature for 6.5 hours. Zinc acetate in the mixture was filtered off and the filtrate was concentrated and purified by silica gel chromatography (hexane/ethyl acetate=4/1 to 2/1).

reactant | 2-fluorobenzaldehyde | 2.68 mmol, 332.3 mg | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 1,1-dimethylnitroethane | 5.31 mmol, 547.5 mg | CC(C)(C)[N+](=O)[O-] | C4H9NO2
reactant | acetic acid | 15.7 mmol, 940.2 mg | C(C)(=O)O | C2H4O2
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
catalyst | zinc | 7.87 mmol, 514.6 mg | [Zn] | Zn
product | α-(2-fluorophenyl)-N-t-butylnitrone | FC1=C(C=CC=C1)C=[N+]([O-])C(C)(C)C | C11H14FNO
